US08314138B2
Synthesis of 2-{1-[2-(4-methoxy-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide and 1-(2-bromo-ethyl)-4-methoxy-benzene as described in Example 49 and isolated as a white solid (0.030 mg, 21% yield). 1H NMR (400 MHz, CDCl3) δ 8.55-8.63 (bm, 2H), 7.72 (d, J=8 Hz, 1H), 7.28-7.33 (m, 1H), 7.15 (d, J=2 Hz, 1H), 6.97 (d, J=8 Hz, 2H), 6.80 (d, J=8 Hz, 2H), 6.72 (d, J=2 Hz, 1H), 6.12-6.19 (m, 1H), 4.64 (d, J=8 Hz, 2H), 4.33 (t, J=8 Hz, 2H), 3.77 (s, 3H), 3.12 (t, J=8 Hz, 3H), 2.76 (s, 3H); MS (M+H)+=433.9; Rt=1.25 min; HRMS (M+H)+=434.16.

reactant | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)-amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C14H13N5OS
reactant | 1-(2-bromo-ethyl)-4-methoxy-benzene | BrCCC1=CC=C(C=C1)OC | C9H11BrO
product | 2-{1-[2-(4-methoxy-phenyl)-ethyl]-1H-pyrazol-3-yl}-4-methyl-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCC1=CC=C(C=C1)OC)C | C23H23N5O2S
